US04772600
2-(4-Chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetamide
A mixture of N-[2-[(2-amino-2-oxoethyl)amino]-3-pyridinyl]-4-chlorobenzamide (6.0 g, 0.02 mole) in 150 ml of ethylene glycol was heated at 190° C. for 40 minutes. The precipitate, which formed, was filtered off and washed with water. The filtrate was diluted with water to produce a second crop. The first crop was heated to boiling in 300 ml of methanol, filtered through a Celite pad, seeded, and refrigerated overnight. The crystalline precipitate was filtered, washed with cold methanol, and dried under high vacuum at 60° C. overnight to give 1.42 g (25%) of title compound, mp 270°-1° C.

reactant | N-[2-[(2-amino-2-oxoethyl)amino]-3-pyridinyl]-4-chlorobenzamide | 0.02 mole, 6.0 g | NC(CNC1=NC=CC=C1NC(C1=CC=C(C=C1)Cl)=O)=O | C14H13ClN4O2
solvent | ethylene glycol | 150 ml | C(CO)O | C2H6O2
solvent | methanol | 300 ml | CO | CH4O
product | 2-(4-Chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetamide | 1.42 g, 25% | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)N | C14H11ClN4O
